Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Barbiturates / Tricyclic Compounds / 
Phenothiazines
 
Attending: ___.
 
Chief Complaint:
Hypothermia
 
Major Surgical or Invasive Procedure:
R PICC line placement

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with history of 
Alzheimer's dementia, hypothyroidism, pituitary adenoma s/p 
resection, and prior episodes of hypothermia, who presented to 
___ from his nursing home after it was 
noted he only ate a small amount of his lunch which was highly 
unusual for him per report. At that time, his blood pressure was 
measured and found to be low at 90/50, with a heart rate in 
40's-50's, and unmeasurable temperature.
.
He was taken to ___, where meansured 
rectal temperature was 89, and remainder of vital signs were: HR 
52, BP 132/80, 100%sat.  While at ___, he 
received 125mg Solumedrol, 2 L warmed IV fluids, 500 mg 
Levofloxacin, 500 mg Flagyl, and warm blankets.  It was decided 
in conjunction with nursing home physician that pt should be 
transfered to ___ given there were no ICU beds available 
elsewhere. Around that time, per report his family stated he was 
similar to prior admissions.
.
In the ___ ED, initial vital signs were: temperature 90 
axillary, heart rate 48, blood pressure 161/91, respiratory rate 
of 16, and oxygen saturation of 100%. A fingerstick at triage 
was 139. During his stay in the ED, Patient was given 1 gram of 
vancomcyin and warmed with a Bair hugger. A CT abdomen and 
pelvis was completed as noted below. At time of transfer, vital 
signs were: 0130: 35.8C 81 136/67 16 98%RA
.
On the floor, patient was not arousable and further history was 
not obtainable.  

 
Past Medical History:
- Dementia (Alzheimer's)
- Hypothyroidism
- Far-advanced pituitary adenoma s/p resection
- History of CVA
- Renal insufficiency
- Anemia
- H/o syphilis
- Prostatic enlargement
- Depression
- Hyperlipidemia
- GERD
- Amputation of fingers of left hand
 
Social History:
___
Family History:
Unavailable

 
Physical Exam:
Vitals: T:95.2 (axillary)/ BP: 135/75 / P: 48 / R: 18 / O2: 99% 
on RA 
General: Laying in bed, lookinig around, not responsive to 
questioning, occasional gutteral noises
HEENT: Sclera anicteric, moist membranes with poor dentition, 
oropharynx clear. Pupils 1mm, minimally reactive bilaterally.
Neck: supple
Lungs: Bilateral airmovement, exam limited by poor effort
CV: Regular rate and rhythm, normal S1 + S2, S4
Abdomen:  soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly.
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Left hand status-post amputation of ___ digits
Neuro: Opens eyes occasionally, responds to some noxious stimuli

 
Pertinent Results:
Admitting Labs:
___ 09:39PM   SODIUM-144 POTASSIUM-4.9 CHLORIDE-119*
___ 09:39PM   HCT-25.6*
___ 01:42PM   GLUCOSE-91 UREA N-19 CREAT-1.2 SODIUM-142 
POTASSIUM-5.7* CHLORIDE-115* TOTAL CO2-21* ANION GAP-12
___ 10:03AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:24AM   calTIBC-213* FERRITIN-895* TRF-164*
___ 04:24AM   calTIBC-213* FERRITIN-895* TRF-164*
___ 08:40PM   TSH-2.9
___ 08:40PM   CORTISOL-52.1*
___ 08:40PM   WBC-6.9 RBC-3.76* HGB-11.2* HCT-36.3* MCV-96 
MCH-29.7 MCHC-30.8* RDW-14.8
___ 08:40PM   PLT COUNT-170
___ 08:40PM   ___ PTT-32.6 ___
___ 08:51PM   GLUCOSE-132* LACTATE-1.8 NA+-140 K+-5.0 
CL--105 TCO2-25
___ 08:40PM   GLUCOSE-133* UREA N-23* CREAT-1.0 SODIUM-138 
POTASSIUM-5.1 CHLORIDE-107 TOTAL CO2-22 ANION GAP-14
.
.
Other Studies:
                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE 
SET ONLY. 
         ___ (___) REQUESTED SENSITIVITIES ___. 
         FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S
.
___ 9:03 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

.
___ 11:00 pm URINE     Site: CATHETER

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
.
___ 6:00 am BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    FINAL 
SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
.
Blood Cx Pending from ___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Aerobic Bottle Gram 
Stain-FINAL INPATIENT 
___ MRSA SCREEN MRSA SCREEN-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
{STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Anaerobic Bottle Gram 
Stain-FINAL
.
ECHO - ___:
GENERAL COMMENTS: Suboptimal image quality - poor echo windows. 
Suboptimal image quality - patient unable to cooperate.  
Conclusions  
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF 65%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. The aortic valve is 
not well seen. No masses or vegetations are seen on the aortic 
valve, but cannot be fully excluded due to suboptimal image 
quality. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. No masses or vegetations are seen on the mitral 
valve, but cannot be fully excluded due to suboptimal image 
quality. There is no pericardial effusion. 
If clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis.  
.
PICC placement ___:
IMPRESSION: Uncomplicated ultrasound and fluoroscopically guided 
4 ___ 
single lumen PICC line placement via the right brachial venous 
approach.  
Final internal length is 38 cm, with the tip positioned in SVC. 
The line is ready to use. 
. 
R Thigh Xray ___:
HISTORY: Staph in blood culture, to assess source of infection. 
  
FINDINGS: No previous images. There is exuberant callus 
formation about a 
healed fracture of the proximal femur. Metallic screw is in 
place. There is no evidence of gas in soft tissues or erosive 
change to suggest this as a source of spreading infection. 
.
CT abdomen/pelvis w/ contrast ___:
IMPRESSION: 
1. Bibasilar aspiration versus atelectasis. 
2. No acute intra-abdominal process. 
3. Mild colonic diverticulosis without acute diverticulitis. 
4. Enlarged prostate. Please correlate with serum PSA level. 
Focal 
hypodense area within the prostate adjacent to the urethra, 
correlate with 
history of prior TURP. If none, findings may represent prostate 
lesion.  
.
CXR ___:
HISTORY: Altered mental status with hypothermia and fluid 
resuscitation. 
  
FINDINGS: In comparison with study of ___, the patient has 
taken a somewhat better inspiration. There is still some 
indistinctness of pulmonary vessels, which could reflect some 
elevated pulmonary venous pressure. No definite discrete 
pneumonia is appreciated at this time. 
.
Discharge Labs:
Na 141 / K 4.1 / Cl 103 / HCO3 29 / BUN 20 / Cr 1.5 / 85
Ca 8.6 / Mg 1.9 / P 3.2
CBC 7.2 / Hgb 9.9 / Hct 31.3 / Plts 257 / MCV 94
 
Brief Hospital Course:
#) Hypothermia.  The differential for hypothermia includes 
hypopituitarism, hypothyroidism, hypoadrenalism, hypoglycemia, 
sepsis, vasodilation/impaired regulation from medication, or 
environmental among other causes. Given history of pituitary 
adenoma status-post resection, central cause appeared likely on 
admission. The patient only had hypothermia to fit SIRS 
criteria. Significantly he had two similar admissions one to 
___, the other to ___ with similar symptoms and 
without clear etiology.  An EEG in the MICU demonstrated only 
encephalopathy. The patient was given a Bair-Hugger and 
temperatures were persistently ___.  Follow-up with the 
patient's nurse at ___ (___)on ___ revealed that his 
temperatures run low at baseline (never more than ___.  A 
toxicology screen was negative. A TSH, cortisol and blood 
cultures were ordered. A stress dose of steroids was 
administered on ___ and continued throughout 
hospitalization with tapering to home level of 5mg Prednisone 
daily by time of discharge. When pt came out of the ICU he 
continued to have intermittent hypothermia into the ___ degree 
range. Pt always warmed back up to ___ on next vital sign 
check and never had any symptoms related to his hypothermia. 
Concern for Endocrine or Neurologic basis of low temps, BP, and 
HR prompted a consult to both services. Endocrinology 
recommended increasing levothyroxine to 75mcg/day and keeping 
baseline prednisone at or above 5mg/day. Free T4/total T4 levels 
were check which showed both WNL. Antithyroglobulin and Anti-TPO 
antibodies were ordered - those results are pending. Neurology 
noted that vital signs abnormalities could be ___ to autonomic 
dysfunction or a ___ type syndrome, but that further 
work-up would likely not change management and that work-up 
would also be difficult ___ to patient's demented state.
.
#) Hypotension/Hypertension: The patients blood pressure was 
labile upon arrival to MICU, with SBP 170->70. Given labile 
nature, sepsis appears less likely. Other possibilities 
considered were adrenal insufficiency, volume depletion, 
cardiogenic, autonomic dysregulation. Two IV fluid boluses for 
blood pressure elevation were given and broad antibiotic 
coverage for hospital acquired pna were administered(vancomycin 
and Levofloxacin) in the ICU.  On the morning of ___, the 
patient appeared much improved, he was afebrile, without 
leukocytosis with two normal chest xrays.  Antibiotic therapy 
was discontinued. The hypotension resolved and pt later became 
hypertensive while on the medicine floor. His home lasix dose of 
20mg/day was restarted and after ___ days BPs came back down to 
the high-normal range. No further episodes of hypotension were 
noted during the hospitalization.
.
# Bradycardia:Pt presented with significant bradycardia but 
after treatment in the ICU his heart rates came back up into 
normal range. Once patient was transferred to the floor, his 
heart rate drifted down to the ___ range where it stayed for 
the next week without any symptoms. During the evening of ___ pt 
was noted to have pseudonormalization of his T segments in a 
diffuse distribution on EKG. Cardiology was contacted and was 
not inclined to think these changes were dangerous. One set of 
cardiac enzymes were negative and pt was placed on ASA and ACS 
dose of a statin for precautionary reasons. Pt continued to be 
brady in the ___ for the rest of admission with his EKG 
showing sinus rhythm with a prolong PR interval. A very 
occasional pause of 2 seconds was noted on tele, but was not 
deemed warrant further intervention or work-up. Pt remained 
asymptomatic during all these episodes.
.
#) Coag Negative Staph bacteremia: After abx were stopped in the 
ICU, Blood Cx from ___ ultimately came back with ___ bottles 
positive for CONS. ID was asked what to do about this finding 
and recommended putting back on Vanco until initial cultures at 
___ and F/U culture form ___ at ___ 
came back negative. Pt then lost IV access which could not be 
regained for 5 days. ID recommended switching to PO Linezolid in 
replacement of vanco until culture results obtained. While the 
___ cultures came back negative, one 
bottle from ___ at ___ came back positive for coag negative 
staph with sensativities identical to the earlier specimen. A 
xray of the R thigh found that pt indeed had hardware in the 
form of a metal screw in an old fracture in his R femur. An TTE 
ECHO of the heart was done that was a very poor quality study 
because patient was moving. Valves could not be adequately 
visualized to assess for possibility of endocarditis. Although 
ID was suspicious that these cultures were both contaminants, 
they recommended antibiotics (either Vanco or Linezolid) be 
continued to finish a 14 day course from the ___ blood culture 
(finishing day ___. Multiple blood cultures are still pending 
from ___ (see pertinent results). Pt was discharge on 
Vancomycin when sent home to nursing facility as a PICC line had 
been placed later in his admission and the nursing facility was 
inclined to use Vanco over Linezolid for cost-efficiency 
reasons.
.
#) Altered Mental Status.  There was a question of mental status 
changes on admission, the patient reportadly ate only 40% of his 
dinner which is highly unusual for him.  On ___ and ___, 
discussions with the patients family and health care providers 
revealed that that patient at baseline is similar to his 
appearance on the morning of ___.  He is A&Ox1 
incontinent, non verbal, unable to feed himself but loves to eat 
and laugh.  As his appetite and mood were restored by ___ the 
patient was transferred to the floor in preparation for 
discharge.  A serum and urine toxicology screen were negative. 
Pt quickly returned to what family described as baseline mental 
status as he was transfered out of the ICU. Pt unable to respond 
to questioning and just looking around his environment without 
much tracking. Responsive to noxious stimuli. 
.
#) IV access: pt a very difficult venous stick and after a few 
days on the floor also lost both of his peripheral IVs. IV team 
was unable to obtain PIV or PICC placement despite multiple 
attempts. ___ could not take to place PIC for 5 days so patient 
spent 5 days on the floor without access. Blood was only drawn 
intermittently because phlebotomy was often unable to access a 
vein. Once PICC was placed blood draws resumed and Abx were 
okayed to transition to IV to finish the 14 day course. 
.
#) Bright red blood per rectum: Initially there was some concern 
that patient was haivng rectal bleeding as there was note 
documentation of BRBPR and a Hct drop after admission. However, 
upon further investigation, it was determined that this had been 
inadvertently added to the medical record from an old hospital 
admission and that patient was not actually bleeding during this 
admission. Initial Hct drop was attributed to the ressucitiation 
fluids the patient was given at ICU presentation. His Hct stayed 
stable the rest of the admission and on evidence of rectal 
bleeding was ever observed.
. 
#) Hypothyroidism, s/p pituitary resection: The patient was 
continued on his home dose of Synthroid until endocrine 
recommended that the dose be increased from 50mcg -> 75mcg each 
day. Free T4, Total T4, and TSH were all found to be WNL during 
admission. AntiTPO and Anti Thyroglobilin antibodies were 
ordered but were pending at time of diagnosis. 
.
#) Dementia: Pt with diagnosis of AD, as well as s/p CVA 
(remote).  Baseline mental status poor, likely multifactorial. 
Aricept was continued as an inpatient.
.
#) Anemia: Normocytic anemia in a patient with chronic disease.  
Given iron studies (Ferritin 895, TIBC 213, TRF 164) and 
clinical picture, his anemia is likely a mixed picture of anemia 
of chronic disease, iron deficiency, and hemodilution. Downward 
trending hct in-house most likely secondary to hemodilution. He 
does not seem to be bleeding as guaiac neg and imaging neg and 
hemodynamically stable.
.
#) Hyperlipidemia: The patient was continued on his home dose of 
Zocor. It was initially increased to a ACS dose during one 
evening where there was concern over EKG changes. However, 
enzymes and clinical situation did not indicate any ACS type 
event so patient was returned to home Zocor dose at discharge.
.

 
Medications on Admission:
-Artificial Tears
-Aricept 10mg qday
-Colace 100mg BID
-Prednisone 5mg qday
-Trazadone 50mg q6h
-Iron 325mg BID
-Synthroid 50 mcg qday
-Zocor 20mg qday
-Lasix 20mg PO qday
 
Discharge Medications:
 1. Aricept 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
2. Polyvinyl Alcohol-Povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day.  
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Trazodone 50 mg Tablet Sig: 0.5mg Tablet PO twice a day: and 
in addition 75mg qhs.  
8. Vancomycin in 0.9% Sodium Cl 1 gram/250 mL Solution Sig: One 
(1)  Intravenous twice a day for 7 days.  
9. Prednisone 5 mg Tablet Sig: One (1) Tablet PO once a day.  
10. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  

11. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO twice a day.  
12. Labs
weekly CBC, CHEM10 LFTS while on antibiotics
13. Vanco trough
Will need to check Vancomycin trough before 4th dose (AM dose on 
___. This assumes pt gets dose on ___ of ___, and gets AM and 
___ dose on ___. If trough <15 or >20, vanco dose will need to 
be adjusted.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
1. Questionable coag negative staph bacteremia  
2. Questionable autonomic dysregulation with hypothermia, low 
blood pressure, and bradycardia. 
. 
Secondary Diagnosis: 
- Dementia (Alzheimer's)  
- Hypothyroidism  
- Far-advanced pituitary adenoma s/p resection in ___  
- History of CVA  
- Renal insufficiency  
- Anemia  
- H/o syphilis 
- Prostatic enlargement  
- Depression  
- Hyperlipidemia  
- GERD  
- Amputation of fingers of left hand  

 
Discharge Condition:
Mental Status: Confused - always.
Activity Status: Bedbound.
Level of Consciousness: Lethargic but arousable.

 
Discharge Instructions:
Mr. ___, it was a pleasure taking care of you during your 
stay. 
.
You were admitted after a transfer from ___ 
___ to ___. Your nursing facility had sent you to 
___ with concerns for low heart-rate, low 
temperature, low blood pressure, and concerns that you only ate 
a small amount of your lunch. At ___ you were 
given steroids, warm IV fluids, antibiotics, and warming 
blankets.
.
Upon arrival at the ___ emergency department your 
temperature was still low and you were sent to the ICU. 
Antibiotics were started and you were warmed with a Bair hugger. 
Your potassium was high and you were treated for this. A study 
of your brain waves were ordered showing encephalopathy. Your 
blood pressure was maintained with IV fluids and as you improved 
we were able to give you food which you tolerated. Although they 
were briefly stopped, we re-started you on antibiotics because 
two different blood cultures grew a bacteria called coag 
negative staph. The infectious disease team helped us manage 
your antibiotics and you will be sent home with an antibiotic 
called vancomycin to complete a 14 day course (ending on ___. 
An ultra-sound of your heart showed no evidence of endocartitis. 
Your temperatures came back up to a low/normal range where they 
stayed for the rest of the admission, with occasional 
hypothermia into the 94 degree range. 
.
The endocrinology team and neurology team both saw you during 
your hospital stay. Endocrinology increased your levothyroxine 
dose to 75mcg each day and recommended your prednisone dose stay 
at or above 5mg each day. Neurology indicated that you may have 
some nerve dysfucntion causing low blood pressure, low heart 
rate, and low temperatures or that you may have some parkinsons 
type symptoms. However, they said the diagnosis would not change 
how you are cared for and no further tests were run. 
.
Your heart rate ran low in the ___ for the last week of your 
admission. You never showed symptoms from this and were 
carefully monitored. Your urine function was found to be 
slightly abnormal with a creatinine of 1.5 at discharge. In the 
past your creatinine has also been slightly high in the 1.1-1.4 
range. A PICC line was also placed in your R arm to allow IV 
access because it is difficult to achieve IV access on your 
veins. This PICC line can be used to complete the course of your 
IV antibiotic.

New Medications to take at discharge:
- Vancomycin 1000mg IV Q12
- Levothyroxine 75mcg PO daily
- Prednisone 5mg PO daily
- ASA 81mg PO daily
.
Pt should also supplement diet with one Ensure shake at each 
meal.
.
You will follow up with your PCP per your normal pattern.
 
Followup Instructions:
___